US07163947B2
A solution of N1-(3-aminopropyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (1.00 g, 3.18 mmol) in 25 mL of CH2Cl2 was placed under an atmosphere of nitrogen and then chilled in an ice water bath. The solution was treated with triethylamine (0.89 mL, 6.7 mmol) and then slowly with isobutyryl chloride (0.35 mL, 3.3 mmol). The reaction was stirred and allowed to slowly come to ambient temperature. After 16 h, the reaction was diluted with 15 mL of CHCl3 and 15 mL of 10% Na2CO3 solution and the layers were separated. The organic portion was washed with H2O (15 mL). The combined aqueous washes were back-extracted with CHCl3 (10 mL). The combined organic extracts were washed with brine (15 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to yield a light yellow foam. The foam was purified by chromatography (SiO2, 10–50% (80:18:2 CHCl3:MeOH:NH4OH) in CHCl3) to yield a white foam. The foam was triturated with hexanes and filtered to yield N-(3-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)-2-methylpropanamide (0.821 g) as a white solid. mp 108–110° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.43 (d, J=7.5 Hz, 1H), 7.72 (t, J=5.4 Hz, 1H), 7.58 (d, J=7.9 Hz, 1H), 7.46–7.41 (m, 1H), 7.26–7.21 (m, 1H), 6.97 (t, J=5.5 Hz, 1H), 6.62 (s, 2H), 4.75 (s, 2H), 3.61 (q, J=7.0 Hz, 2H), 3.17–3.13 (m, 4H), 2.29 (h, J=6.9 Hz, 1H), 1.71 (p, J=7.1 Hz, 2H), 1.17 (t, J=7.0 Hz, 3H), 0.95 (d, J=6.8 Hz, 3H); 13C NMR (75 MHz, DMSO-d6) δ 176.4, 152.3, 149.5, 145.3, 132.4, 127.4, 126.1, 124.2, 121.2, 114.7, 65.8, 63.1, 50.2, 36.6, 34.4, 28.0, 19.9, 15.3; MS (APCI) m/z 385 (M+H)+; Anal. Calcd for C20H28N6O2•0.25H2O: C, 61.76; H, 7.38; N, 21.61; Found: C, 61.67; H, 7.55; N, 21.72.

reactant | N1-(3-aminopropyl)-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 3.18 mmol, 1.00 g | NCCCNN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC | C16H22N6O
reactant | triethylamine | 6.7 mmol, 0.89 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 3.3 mmol, 0.35 mL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Na2CO3 | 15 mL | C(=O)([O-])[O-].[Na+].[Na+]
product | N-(3-{[4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]amino}propyl)-2-methylpropanamide | 0.821 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2NCCCNC(C(C)C)=O)COCC | C20H28N6O2
